### ISSUE TITLE
`rw` tactic "steals" goals

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#10172]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Consider this code:

```lean
example (l m : List Nat) (i : Nat) (hi' : i < (l ++ m).length)
    (hh : ∀ hi, l[i]'hi = 5) : (l ++ m)[i] = 5 := by
  rw [List.getElem_append_left]
  · sorry
  · sorry
```

After the `rw`, there are two goals: `l[i] = 5` and `i < l.length`. Now, if I replace the first `sorry` with `rw [hh]`, then two unexpected things happen: first, the rewrite leaves behind a goal of `i < l.length` (why was this not filled by unification?), and second, the second goal below disappears:

```lean
example (l m : List Nat) (i : Nat) (hi' : i < (l ++ m).length)
    (hh : ∀ hi, l[i]'hi = 5) : (l ++ m)[i] = 5 := by
  rw [List.getElem_append_left]
  · rw [hh] -- Error: unsolved goal `i < l.length`
  · sorry -- Error: No goals to be solved
```

Here is a video of the behavior: https://www.youtube.com/watch?v=JpYr1tKO37M

**Expected behavior:** `rw [hh]` should close the first branch. The second branch asking for `i < l.length` should remain open.

Hence, the second snippet above should have no errors (just a `sorry` warning).

**Actual behavior:** First branch has goal `i < l.length`, second branch is closed.

### Versions

`Lean 4.24.0-nightly-2025-08-27`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
